US07161032B2
In ethanol (7 ml) was dissolved 2.2 g (7.4 mmol) of ethyl 2-(benzyloxycarbonylamino)propane-1-sulfinate, and 3.2 g (8 mmol) of 10% aqueous sodium hydroxide solution was slowly dropped thereinto under ice-cooling. The reaction was carried out at room temperature for 1 hour, after which the ethanol was distilled off and water was added to the residue, followed by two runs of extraction with methyl t-butyl ether. The aqueous layer was acidified with concentrated hydrochloric acid, followed by three runs of extraction with ethyl acetate. The extract solution was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off and the crude crystals thus obtained were washed twice with a solvent (hexane:ethyl acetate=4:1) to obtain 1.73 g (yield 91%) of 2-(benzyloxycarbonylamino)propane-1-sulfinic acid.

reactant | ethyl 2-(benzyloxycarbonylamino)propane-1-sulfinate | 7.4 mmol, 2.2 g | C(C1=CC=CC=C1)OC(=O)NC(CS(=O)OCC)C | C13H19NO4S
reactant | sodium hydroxide | 8 mmol, 3.2 g | [OH-].[Na+]
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 2-(benzyloxycarbonylamino)propane-1-sulfinic acid | 1.73 g, yield 91% | C(C1=CC=CC=C1)OC(=O)NC(CS(=O)O)C | C11H15NO4S
